US07314872B2
5,5-Dimethyl-hex-2-enoic acid was prepared using a modified procedure from Chatterjee, A. K. et al. J. Am. Chem. Soc. 2003, 125(37), 11360-11370. 4,4-Dimethyl-1-pentene (5.0 mL, 34.77 mmol, 1.5 eq.) and acrylic acid (1.54 mL, 22.51 mmol, 1.0 eq.) were added to a solution of ruthenium catalyst ([1,3-bis(2,4,6-trimethylphenyl)-2-imidazolidinylidene]dichloro[[2-(1-methylethoxy-)phenyl]methylene-]ruthenium, 282 mg, 0.45 mmol, 2 mol %) in CH2Cl2 and heated to reflux for 12 hours under nitrogen atmosphere. The resulting brown solution was diluted with CH2Cl2 and washed with 1M NaOH (3×15 mL). The organic phase was acidified with 4 M HCl (20 mL) and extracted with EtOAc (3×25 mL). The combined organics were washed with brine, dried over MgSO4, filtered and evaporated to provide intermediate 5,5-Dimethyl-hex-2-enoic acid as a light brown oil (3.16 g, 22.21 mmol, 99%): 1H NMR (CDCl3, 400 MHz) δ 0.94 (s, 9H), 2.11 (d, 2H, J=8.0 Hz), 5.82 (d, 1H, J=16.0 Hz), 7.12 (dt, 1H, J=16.0, 8.0 Hz).

reactant | 4,4-Dimethyl-1-pentene | 34.77 mmol, 5.0 mL, 1.5 eq. | CC(CC=C)(C)C | C7H14
reactant | acrylic acid | 22.51 mmol, 1.54 mL, 1.0 eq. | C(C=C)(=O)O | C3H4O2
catalyst | ruthenium | 0.45 mmol, 282 mg | [Ru] | Ru
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5,5-Dimethyl-hex-2-enoic acid | 22.21 mmol, 3.16 g, 99% | CC(CC=CC(=O)O)(C)C | C8H14O2
